US04767871
4-(S)-(t-Butoxycarbonylamino)-3-Oxo-1,2-Diazolidine
4-(S)-(t-butoxycarbonylamino)-1-(trifluoroacetyl)-3-oxo-1,2-diazolidine (2.97 g, 10 mmol) was suspended in water (30 ml), 1N sodium hydroxide solution (20 ml, 0.8 g, 20 mmol) was added to raise the pH of the solution to 12.2 and the resultant mixture was stirred for one hour at room temperature. The pH of the mixture was adjusted to 7.2 by the addition of 1N hydrochloric acid (10 ml). Sodium chloride (13 g) was added to the solution and the mixture was extracted with chloroform (50 ml, 8X). The chloroform extracts were combined, washed with saturated aqueous sodium chloride solution (75 ml), dried over sodium sulfate, filtered, and evaporated to dryness in vacuo. Diethyl ether (100 ml) was added to the residue and then the ether was removed in vacuo to yield 0.798 g of a white solid of 4-(S)-(t-butoxycarbonylamino)-3-oxo-1,2-diazolidine: n.m.r. (300 MHz, DMSO-d6): δ 9.23 (s, 1), 7.04 (d, 1, J=9), 5.24 (br. s, 1,), 4.24 (m, 1), 3.41 (t, 1), 2.88 (t, 1), 1.38 (s, 9); specific rotation: [a]D25 =-74.16° (10.06 mg/ml in methanol); (the compound was dried overnight at 80° C. before analysis):

reactant | 4-(S)-(t-butoxycarbonylamino)-1-(trifluoroacetyl)-3-oxo-1,2-diazolidine | 10 mmol, 2.97 g | C(C)(C)(C)OC(=O)N[C@@H]1C(NN(C1)C(C(F)(F)F)=O)=O | C10H14F3N3O4
reactant | sodium hydroxide | 20 mmol, 1N, 20 ml, 0.8 g | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 10 ml | Cl | ClH
reactant | Sodium chloride | 13 g | [Cl-].[Na+]
solvent | water | 30 ml | O | H2O
product | 4-(S)-(t-Butoxycarbonylamino)-3-Oxo-1,2-Diazolidine | 0.798 g | C(C)(C)(C)OC(=O)N[C@@H]1C(NNC1)=O | C8H15N3O3
